US07915424B2
3-(4-Fluoro-3-nitrophenylethynyl)-5-methoxypyridine
Sequentially add 3-ethynyl-5-methoxypyridine, (prepared as described in PREPARATION 10), (400 mg, 3.0 mmol), bis(triphenylphosphine)palladium (II) dichloride (0.100 g, 0.14 mmol) and copper (I) iodide (53 mg, 0.28 mmol) to a solution of 4-bromo-1-fluoro-2-nitrobenzene (616 mg, 2.8 mmol) in triethyl amine (6 mL) and heat for 2 h at 60° C. Add additional 3-ethynyl-5-methoxypyridine (100 mg, 0.75 mmol) and continue heating for 1 h. Concentrate and purify the residue by silica gel chromatography, eluting with 30:70 to 40:60 ethyl acetate:hexanes, to give the title compound as a pale yellow solid (330 mg, 43%).

reactant | 3-ethynyl-5-methoxypyridine | 3.0 mmol, 400 mg | C(#C)C=1C=NC=C(C1)OC | C8H7NO
reactant | 4-bromo-1-fluoro-2-nitrobenzene | 2.8 mmol, 616 mg | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | 3-ethynyl-5-methoxypyridine | 0.75 mmol, 100 mg | C(#C)C=1C=NC=C(C1)OC | C8H7NO
solvent | triethyl amine | 6 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium | 0.14 mmol, 0.100 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.28 mmol, 53 mg | [Cu]I
product | 3-(4-Fluoro-3-nitrophenylethynyl)-5-methoxypyridine | 330 mg, 43% | FC1=C(C=C(C=C1)C#CC=1C=NC=C(C1)OC)[N+](=O)[O-] | C14H9FN2O3
